US05364856
A. (2aS,4R)-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole
A mixture of 100 g (0.21 mol) of (2aS,4R)-1-benzoyl-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole and 1 liter of 1M ethanolic potassium hydroxide was refluxed under nitrogen for 5 hours. The cooled mixture was diluted with two volumes of water, and the product was extracted into methylene chloride. After drying the extract over sodium sulfate the solvent was evaporated leaving 78 g of the debenzoylated product as a light brown oil.

reactant | (2aS,4R)-1-benzoyl-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 0.21 mol, 100 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]2C=3C(=C(C=CC13)I)C[C@@H](C2)N(CCC)CCC | C24H29IN2O
reactant | potassium hydroxide | 1M, 1 liter | [OH-].[K+]
solvent | water | O | H2O
product | (2aS,4R)-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 78 g | IC1=C2C=3[C@@H](CNC3C=C1)C[C@H](C2)N(CCC)CCC | C17H25IN2
